US03987052
In the manner given in Example 2, 6,9-dichloro-1,3-dihydro-5-(p-isopropylphenyl)-2H-1,4-benzodiazepine-2-thione is heated in ethanol with acetic acid hydrazide and the resulting product heated to 250° C. to give 7,10-dichloro-1-methyl-6-(p-isopropylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6,9-dichloro-1,3-dihydro-5-(p-isopropylphenyl)-2H-1,4-benzodiazepine-2-thione | ClC1=CC=C(C2=C1C(=NCC(N2)=S)C2=CC=C(C=C2)C(C)C)Cl | C18H16Cl2N2S
reactant | acetic acid hydrazide | C(C)(=O)NN | C2H6N2O
solvent | ethanol | C(C)O | C2H6O
product | 7,10-dichloro-1-methyl-6-(p-isopropylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC1=CC=C(C2=C1C(=NCC=1N2C(=NN1)C)C1=CC=C(C=C1)C(C)C)Cl | C20H18Cl2N4
